US08981085B2
10% Pd/C (65 mg, 0.061 mmol) was added to a solution of (R)-tert-butyl 4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-3-(cyclopropanecarboxamido)-5-vinyl-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (64 mg, 0.12 mmol) in ethanol (6 mL). The mixture was stirred under a hydrogen atmosphere (balloon) for 3.5 hours. The mixture was filtered through a pad of Celite® and washed with methanol, and the filtrate evaporated in vacuo. The residue was purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 15-80% CH3CN/water, 25CV) to give (R)-tert-butyl 4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-3-(cyclopropanecarboxamido)-5-ethyl-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (29.4 mg, 46% yield) as a solid. LCMS (APCI+) m/z 528 (M+H)+, Retention time=4.37 minutes.

reactant | (R)-tert-butyl 4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-3-(cyclopropanecarboxamido)-5-vinyl-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.12 mmol, 64 mg | C(C)(C)(C)OC(=O)N[C@H]1CN(CCC1)C1=C2C(=NC=C1C=C)N(C=C2NC(=O)C2CC2)C(=O)OC(C)(C)C | C28H39N5O5
reactant | CH3CN water | CC#N.O
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.061 mmol, 65 mg | [Pd] | Pd
product | (R)-tert-butyl 4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-3-(cyclopropanecarboxamido)-5-ethyl-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 29.4 mg, 46% yield | C(C)(C)(C)OC(=O)N[C@H]1CN(CCC1)C1=C2C(=NC=C1CC)N(C=C2NC(=O)C2CC2)C(=O)OC(C)(C)C | C28H41N5O5
